US09029408B2
To a solution of (1-(phenylsulfonyl)-2-(p-tolyl)-1H-imidazol-4-yl)(3,4,5-trimethoxyphenyl)methanone (11da, 492 mg, 1.0 mmol) in THF (15.0 mL) was added 1.0 M tetrabutyl ammonium fluoride (2.0 mL, 2.0 mmol) and stirred overnight. The reaction mixture was diluted by 30 mL of saturated NaHCO3 solution (aqueous) and extracted by ethyl acetate (80 mL). The organic layer was dried over magnesium sulfate and concentrated. The residue was recrystallized from water and methanol to give a white solid of 12da (2-(p-tolyl)-1H-imidazol-4-yl)(3,4,5-trimethoxyphenyl)methanone). Yield: 88.5%. mp 201-203° C. 1H NMR (500 MHz, CDCl3) δ 10.40 (br, 1H), 7.88 (d, J=8.0 Hz, 2H), 7.82 (s, 1H), 7.31 (d, J=8.0 Hz, 2H), 7.24 (s, 2H), 3.96 (s, 3H), 3.94 (s, 6H), 2.43 (s, 3H). MS (ESI): calculated for C20H20N2O4, 352.10. found 375.2 [M+Na]+. HPLC2: tR 15.45 min, purity 97.4%.

reactant | (1-(phenylsulfonyl)-2-(p-tolyl)-1H-imidazol-4-yl)(3,4,5-trimethoxyphenyl)methanone | 1.0 mmol, 492 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=NC(=C1)C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C1=CC=C(C=C1)C | C26H24N2O6S
reactant | tetrabutyl ammonium fluoride | 2.0 mmol, 1.0 M, 2.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 15.0 mL | C1CCOC1 | C4H8O
product | (2-(p-tolyl)-1H-imidazol-4-yl)(3,4,5-trimethoxyphenyl)methanone | Yield: 88.5% | C1(=CC=C(C=C1)C=1NC=C(N1)C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C | C20H20N2O4
